US05834501
5-{4-[2-(7-Azaindol-1-yl)ethoxy]benzyl}thiazolidine-2.4-dione (Compound No. 1-72)
A procedure similar to that described in Example 2 was repeated, except that 2.50 g of 5-{4-[2-(7-aza-indol-1-yl)ethoxy]benzyl}-3-triphenylmethylthiazolidine-2,4-dione (prepared as described in Preparation 19), 50 ml of methylene chloride and 3.1 ml of trifluoroacetic acid were used, to give 0.84 g of the title compound, melting at 200.0°-202.4° C.

reactant | 5-{4-[2-(7-aza-indol-1-yl)ethoxy]benzyl}-3-triphenylmethylthiazolidine-2,4-dione | 2.50 g | N1(C=CC2=CC=CN=C12)CCOC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C38H31N3O3S
reactant | trifluoroacetic acid | 3.1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 5-{4-[2-(7-Azaindol-1-yl)ethoxy]benzyl}thiazolidine-2.4-dione | 0.84 g | N1(C=CC2=CC=CN=C12)CCOC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C19H17N3O3S
